US06399613B1
A solution of 500 mg of 2,5-dimethoxycarbonylpyrazine and 525 mg of 2-amino-2-methyl-1,3-propanediol in 3 cm3 of ethanol is heated at a temperature in the region of the reflux temperature for 90 minutes. The reaction mixture is filtered while hot. The white solid is washed with 5 cm3 of boiling ethanol. 200 mg of N,N′-bis(1,3-dihydroxy-2-methyl-2-propyl)pyrazine-2,5-dicarboxamide are thus obtained in the form of a white solid melting at 208° C. [1H NMR spectrum (400 MHz, CDCl3, δ at ppm): 1.34 (s, 6H: 2×CH3); 3.55 and 3.66 (2 dd, J=11 and 5.5 Hz, 8H: 4×OCH2); 5.01 (t, J=5.5 Hz, 4H: 4×OH); 8.22 (s, 2H: ═CH at 3 and ═CH at 6); 9.20 (s, 2H: 2×CONH)].

reactant | 2,5-dimethoxycarbonylpyrazine | 500 mg | COC(=O)C1=NC=C(N=C1)C(=O)OC | C8H8N2O4
reactant | 2-amino-2-methyl-1,3-propanediol | 525 mg | NC(CO)(CO)C | C4H11NO2
solvent | ethanol | 3 cm3 | C(C)O | C2H6O
product | N,N′-bis(1,3-dihydroxy-2-methyl-2-propyl)pyrazine-2,5-dicarboxamide | 200 mg | OCC(CO)(C)NC(=O)C1=NC=C(N=C1)C(=O)NC(CO)(CO)C | C14H22N4O6
